US20010046981A1
(i) 4-Azidomethyl-3-chlorobenzonitrile
A mixture 8.0 g (0.035 mol) of 4-bromomethyl-3-chlorobenzonitrile (J. Pharm. Sci., (1986) 75, 410), 2.7 g (0.042 mol) of sodium azide, 1.2 g (3.4 mmol) of tetrabutylammonium hydrogen sulfate, 0.30 g (3.4 mmol) of sodium hydrogen carbonate, 7 mL of water and 20 mL of toluene was stirred vigorously for 3 days. The phases were separated and the aqueous layer was extracted three times with ether. The combined organic phase was washed with water, dried over sodium sulfate and evaporated to give 6.7 g (100%) of the sub-title compound.

reactant | 4-bromomethyl-3-chlorobenzonitrile | 0.035 mol, 8.0 g | BrCC1=C(C=C(C#N)C=C1)Cl | C8H5BrClN
reactant | sodium azide | 0.042 mol, 2.7 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydrogen carbonate | 3.4 mmol, 0.30 g | C(O)([O-])=O.[Na+]
reactant | water | 7 mL | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 3.4 mmol, 1.2 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Azidomethyl-3-chlorobenzonitrile | 6.7 g, 100% | N(=[N+]=[N-])CC1=C(C=C(C#N)C=C1)Cl | C8H5ClN4
